US09382188B2
step 2) (E)-ethyl 3-(3-((methoxymethoxy)methyl)phenyl)acrylate
Under a nitrogen atmosphere, a crude product of 1-bromo-3-((methoxymethoxy)methyl)benzene (3.60 g), triethylamine (6.50 mL), palladium acetate (175 mg), tri-o-tolylphosphine (711 mg) and ethyl acrylate (8.4 mL) were stirred in DMF (30 mL) at 110° C. for 1 hr. The solvent of the reaction mixture was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (3.41 g) as a pale-yellow oil.

reactant | 1-bromo-3-((methoxymethoxy)methyl)benzene | 3.60 g | BrC1=CC(=CC=C1)COCOC | C9H11BrO2
reactant | triethylamine | 6.50 mL | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 711 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | ethyl acrylate | 8.4 mL | C(C=C)(=O)OCC | C5H8O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 175 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-ethyl 3-(3-((methoxymethoxy)methyl)phenyl)acrylate | 3.41 g | COCOCC=1C=C(C=CC1)/C=C/C(=O)OCC | C14H18O4
